US04352818
A solution of 5 g (22 mmol) of 3-amino-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 100 ml of hydrofluoboric acid (50 percent in water) is diazotized at 0° to 5° with a solution of 1.95 g (28 mmol) of sodium nitrite in 4 ml of water. The yellow solution is stirred in an ice-bath for 20 minutes, diluted with 85 ml of hydrofluoboric acid, poured into a quartz vessel and irradiated overnight with a UV-lamp. Subsequently, the mixture is extracted with chloroform. The chloroform extracts are washed with water, dried over magnesium sulphate and evaporated. By chromatography of the residue on a silica gel column there is obtained 3-fluoro-4,5 -dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 171°-172°.

reactant | 3-amino-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 22 mmol, 5 g | NC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H12N4O
reactant | sodium nitrite | 28 mmol, 1.95 g | N(=O)[O-].[Na+]
reactant | hydrofluoboric acid | 100 ml | [H+].[B-](F)(F)(F)F
reactant | hydrofluoboric acid | 85 ml | [H+].[B-](F)(F)(F)F
solvent | water | 4 ml | O | H2O
product | 3-fluoro-4,5 -dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | FC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H10FN3O
